US06015868
Preparation of 2-Propylindene
To an oven-dried 250 mL round bottom flask containing a magnetic stir bar and equipped with a reflux condenser and vacuum adapter was added 2-bromoindene (15.0 g, 76.9 mmol) and Ni(dppp)Cl2 (0.42 g, 0.77 mmol) (dppp=1,3-bis(diphenyl-phosphino)propane). The flask was stoppered and evacuated. Deoxygenated anhydrous diethyl ether (150 mL) was added via cannula under argon at -78° C. The reaction was stirred under argon without exterior cooling as 42 mL of a 2.0 M propylmagnesium chloride in ether solution was added via syringe (84 mmol propylmagnesium chloride). The reaction was placed in a dry ice/acetone bath when a vigorous reflux was achieved. The dry ice/acetone bath was removed after 2 minutes, and the reaction was stirred at room temperature under argon for 90 minutes. The reaction was carefully poured into water and 10 weight percent aqueous HCl was added until the mixture was acidic. The mixture was extracted with ether (3×200 mL), and the combined organic layers were washed with water (1×250 mL), with aqueous sodium bicarbonate (1×250 mL), and with aqueous saturated sodium chloride solution (1×250 mL). Drying over anhydrous sodium sulfate followed by filtration and solvent removal yielded 12.14 g (99.7 percent) of the desired product.

reactant | 2-bromoindene | 76.9 mmol, 15.0 g | BrC=1CC2=CC=CC=C2C1 | C9H7Br
reactant | propylmagnesium chloride | 84 mmol | C(CC)[Mg]Cl
catalyst | Ni(dppp)Cl2 | 0.77 mmol, 0.42 g | Cl[Ni]1([P](CCC[P](C2=CC=CC=C2)1C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5)Cl
product | 2-Propylindene | 12.14 g, 99.7 percent | C(CC)C=1CC2=CC=CC=C2C1 | C12H14
